US04602016
Methyl chloroformate (0.5 g) was added to a stirred solution of 1-[2-(4-aminophenoxy)ethyl]imidazole (1.0 g) in chloroform (50 ml) and the mixture was stirred at room temperature for 2 hours and then evaporated. The residue was dissolved in water and made basic by the addition of sodium bicarbonate. The resulting precipitate was filtered off, washed with water and crystallised from methanol/water to give 1-[2-(4-methoxycarbonylaminophenoxy)ethyl]imidazole (1.13 g), m.p. 152°-153° C., Found: C, 59.77; H, 5.81; N, 15.92. C13H15N3O3 requires: C, 59.76; H, 5.79; N, 16.08%.

reactant | Methyl chloroformate | 0.5 g | ClC(=O)OC | C2H3ClO2
reactant | 1-[2-(4-aminophenoxy)ethyl]imidazole | 1.0 g | NC1=CC=C(OCCN2C=NC=C2)C=C1 | C11H13N3O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(4-methoxycarbonylaminophenoxy)ethyl]imidazole | 1.13 g | COC(=O)NC1=CC=C(OCCN2C=NC=C2)C=C1 | C13H15N3O3
